US07355052B2
Stage 2: 3-fluoro-N,N-bis(3-methylbutyl)-4-nitrobenzamide
1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) (4.4 g, 1.1 eq) in solution in chloroform (25 ml) and 1-hydroxybenzotriazole (HOBt) (3.05 g, 1.1 eq) in solution in THF (40 ml) are added successively to 3-fluoro-4-nitrobenzoic acid (3.8 g, 1 eq) in solution in anhydrous THF (30 ml). The mixture is stirred for 1 hour at a temperature of approximately 20° C. then diisoamylamine (3.6 g, 1.1 eq) in solution in THF (30 ml) is added. After stirring for 16 hours at a temperature of approximately 20° C., the reaction mixture is concentrated under reduced pressure at 40° C. The residue is taken up in dichloromethane (200 ml) and water (70 ml). After decantation and extractions, the combined organic phases are washed with salt water, dried over Na2SO4 then concentrated under reduced pressure at 40° C. Purification of the compound by flash chromatography on silica gel (eluent: heptane/ethyl acetate 9:1) produces the expected compound in the form of a yellow oil (4.3 g; 65% yield).

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.4 g, 1.1 eq | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 3.05 g, 1.1 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-fluoro-4-nitrobenzoic acid | 3.8 g, 1 eq | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | diisoamylamine | 3.6 g, 1.1 eq | C(CC(C)C)NCCC(C)C | C10H23N
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-fluoro-N,N-bis(3-methylbutyl)-4-nitrobenzamide | 65% yield | FC=1C=C(C(=O)N(CCC(C)C)CCC(C)C)C=CC1[N+](=O)[O-] | C17H25FN2O3
